US05334225
To a mixture of 40 ml of ethanol with 60 ml of water, there was added 20.0 g (16.3 mmol) of 6-amino-m-cresol, followed by heating to 80° C. To the obtained solution, there was added dropwise 17.4 g (17.1 mmol) of acetic anhydride over 10 minutes and the mixture was stirred at 80° C. for 15 minutes. After the completion of the reaction, the mixture was cooled to 10° C. The crystals thus precipitated were filtered, washed with water and dried. Thus 23.9 g (15.0 mmol) of N-(2-hydroxy-4-methylphenyl)acetamide was obtained as pale brown crystals. The yield was 89%. A 20.0 g portion of this product was recrystallized from acetonitrile to thereby give 17.9 g of N-(2-hydroxy-4-methylphenyl)acetamide as colorless crystals. The recovering yield was 90%.

reactant | ethanol | 40 ml | C(C)O | C2H6O
reactant | 6-amino-m-cresol | 16.3 mmol, 20.0 g | NC=1C=CC(=CC1O)C | C7H9NO
reactant | acetic anhydride | 17.1 mmol, 17.4 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | 60 ml | O | H2O
product | N-(2-hydroxy-4-methylphenyl)acetamide | 15.0 mmol, 23.9 g, yield was 89% | OC1=C(C=CC(=C1)C)NC(C)=O | C9H11NO2
